US07838543B2
Step 2. 2-Chloro-7-methyl-6-nitro-benzothiazole
Suspend 7-methyl-6-nitro-benzothiazol-2-ylamine (5.17 g, 24.7 mmol) in conc. HCl (70 mL) and water (70 mL). Add copper (1) chloride (542 mg, 5.47 mmol) followed by slow addition of sodium nitrite (17.4 g, 252 mmol). Stir at rt for 2 h and then add water (100 mL). Filter the solid and dry in a vacuum oven at 40° C. overnight to yield 4.45 g (79%) of the title compound: 1H NMR δH (400 MHz, DMSO) 8.16 (d, J=9.2 Hz, 1H), 8.01 (d, J=8.8 Hz, 1H), 2.71 (s, 3H).

reactant | 7-methyl-6-nitro-benzothiazol-2-ylamine | 24.7 mmol, 5.17 g | CC1=C(C=CC=2N=C(SC21)N)[N+](=O)[O-] | C8H7N3O2S
reactant | sodium nitrite | 252 mmol, 17.4 g | N(=O)[O-].[Na+]
reactant | HCl | 70 mL | Cl | ClH
solvent | water | 70 mL | O | H2O
catalyst | copper (1) chloride | 5.47 mmol, 542 mg | [Cu]Cl
solvent | water | 100 mL | O | H2O
product | 2-Chloro-7-methyl-6-nitro-benzothiazole | 4.45 g, 79% | ClC=1SC2=C(N1)C=CC(=C2C)[N+](=O)[O-] | C8H5ClN2O2S
